US05488055
A mixture of 5-amino-1-ethylpyrazole (0.56 g, 5 mmol), 2-chloro-5-(trifluoromethylsulfonyl)benzoic acid (1.4 g, 4.9 mmol), K2CO3 (0.69 g, 5 mmol), Cu(OAc)2 (0.1 g) and DMF (10mL) was refluxed for 4 hours and then was cooled to room temperature and was allowed to stand for about 3 days. Water was added to the reaction mixture and then the solution was acidified with acetic acid to a pH of about 5. The mixture was extracted with CH2Cl2 and then the CH2Cl2 layer was evaporated to afford N-(1-ethylpyrazol-5-yl)-5- trifluoromethylsulfonyl)anthranilic acid.

reactant | 5-amino-1-ethylpyrazole | 5 mmol, 0.56 g | NC1=CC=NN1CC | C5H9N3
reactant | 2-chloro-5-(trifluoromethylsulfonyl)benzoic acid | 4.9 mmol, 1.4 g | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C(F)(F)F | C8H4ClF3O4S
reactant | K2CO3 | 5 mmol, 0.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 10mL | CN(C)C=O | C3H7NO
catalyst | Cu(OAc)2 | 0.1 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
